US06352993B1
Step 1: 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-6-methoxy-1,2,3,4-tetra-hydroisoquinolin-2-yl)pyrimidine
After 1-methyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline(1.2 g, 6.8 mmol) and triethylamine(0.96 ml, 6.9 mmol) were added to a suspension of 2,4-dichloro-6-methoxymethyl-5-methylpyrimidine(1.3 g, 6.3 mmol) in dimethylformamide, 2.0 g of the titled compound was obtained in accordance with the same procedure as in Step 1 of Example 35. (Yield: 73.6%)

reactant | 1-methyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 6.8 mmol, 1.2 g | CC1NCCC2=CC(=CC=C12)OC | C11H15NO
reactant | triethylamine | 6.9 mmol, 0.96 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-6-methoxymethyl-5-methylpyrimidine | 6.3 mmol, 1.3 g | ClC1=NC(=C(C(=N1)Cl)C)COC | C7H8Cl2N2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-6-methoxy-1,2,3,4-tetra-hydroisoquinolin-2-yl)pyrimidine | 2.0 g, Yield: 73.6% | COCC1=C(C(=NC(=N1)Cl)N1C(C2=CC=C(C=C2CC1)OC)C)C | C18H22ClN3O2
